*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/4.70e-03[uF]/63[V]
* Murata P/N :GCM2165C1J472GA16
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C1J472GA16 Port1 Port2
C01 Port1 N01 4.62e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.27e-10
R03 N02 N03 8.82e-03
L04 N03 N04 4.75e-11
R04 N03 N04 2.92e-01
L05 N04 N05 4.09e-12
R05 N04 N05 2.06e-01
L06 N05 N06 5.87e-11
R06 N05 N06 1.26e-02
L07 N06 N07 3.74e-10
R07 N06 N07 5.13e-03
C08 N07 N08 1.84e-08
L08 N07 N08 2.11e-11
R08 N07 N08 2.08e-01
C09 N08 N09 5.37e-09
L09 N08 N09 2.67e-11
R09 N08 N09 2.88e-01
C10 N09 N10 3.45e-09
L10 N09 N10 1.32e-11
R10 N09 N10 1.01e-01
C11 N10 Port2 1.55e-12
L11 N10 Port2 2.00e-10
R11 N10 Port2 1.77e+02
.ENDS GCM2165C1J472GA16
